US07074837B2
2-(Benzylamino)-2-(1-formylcyclopropyl)acetonitrile
Benzylamine (107 mg, 1.0 mmol) was suspended in a mixture of ethanol (0.5 ml) and water (1.5 ml). To the resulting suspension were successively added potassium cyanide (65 mg, 1.0 mmol) and sodium bisulfite (104 mg, 1.0 mmol) under ice cooling and stirring. An ethanol (1.5 ml) solution of 1,1-cyclopropane dicarboaldehyde (98 mg, 1.0 mmol) was added dropwise and the mixture was stirred at the same temperature for 2 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed successively with water and saturated saline, dried over sodium sulfate, filtered, and then evaporated under reduced pressure. The oily residue thus obtained was subjected to chromatography on a silica gel column (silica gel 8.0 g; hexane:ethyl acetate=5:1), whereby the title compound (109 mg, 50.8%) was obtained as a slightly yellow oil.

reactant | Benzylamine | 1.0 mmol, 107 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium cyanide | 1.0 mmol, 65 mg | [C-]#N.[K+]
reactant | sodium bisulfite | 1.0 mmol, 104 mg | S([O-])(O)=O.[Na+]
reactant | 1,1-cyclopropane dicarboaldehyde | 1.0 mmol, 98 mg | C1(CC1)(C=O)C=O | C5H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-(Benzylamino)-2-(1-formylcyclopropyl)acetonitrile | 109 mg, 50.8% | C(C1=CC=CC=C1)NC(C#N)C1(CC1)C=O | C13H14N2O
